US07838675B2
i) (4R)-4-(isoPropoxymethyl)-2,2-dimethyl-1,3-dioxolane
To a solution of 2,2-dimethyl-1,3-dioxolane-4-methanol (2 g), in DMSO (50 mL), powdered potassium hydroxide was added portionwise at 0° C. then warmed to room temperature. 2-Iodo-propane (43 mL) was added to the mixture at 0° C. then stirred for 72 h at room temperature. The reaction mixture was diluted with H2O and extracted with EtOAc. The organic layer was washed with H2O then brine (×2) and dried (MgSO4), filtered and evaporated to give the subtitle compound as clear, colourless oil. Yield: 2 g

reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 2 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-Iodo-propane | 43 mL | IC(C)C | C3H7I
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | (4R)-4-(isoPropoxymethyl)-2,2-dimethyl-1,3-dioxolane | C(C)(C)OC[C@H]1OC(OC1)(C)C | C9H18O3
